US07442806B2
Synthesis of (S)-2-{1-[2-(2,3-dihydrobenzofuran-5-yl)ethyl]-3-pyrrolidinyl}-2,2-diphenylacetamide (DRF.HBr)
Pd/C 10% (0.8 g) was added to a solution of S)-2-{1-[2-(benzofuran-5-yl)ethyl]-3-pyrrolidinyl}-2,2-diphenylacetamide (8 g) in acetic acid (160 ml). The mixture was hydrogenated at 45-50° C. and at atmospheric pressure for about 6-7 hrs. Catalyst was filtered off and solution was concentrated under vacuum obtaining an oily residue. n-Butanol (40 ml) was added and stirred to obtain a solution. 48% HBr (3.5 g) was added and a mixture n-Butanol/water was eliminated by distillation to reduce water content to less then 1%. Darifenacin .HBr crystallizes and after 2 hrs at 15-20° C. was filtered and washed with n-Butanol (3×5 ml). After drying at 55-60° C. under vacuum 8.1 g of Darifenacin hydrobromide were obtained. (Yield 85%).

reactant | 2-{1-[2-(benzofuran-5-yl)ethyl]-3-pyrrolidinyl}-2,2-diphenylacetamide | 8 g | O1C=CC2=C1C=CC(=C2)CCN2CC(CC2)C(C(=O)N)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H28N2O2
reactant | n-Butanol | 40 ml | C(CCC)O | C4H10O
reactant | HBr | 3.5 g | Br | BrH
solvent | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.8 g | [Pd] | Pd
product | (S)-2-{1-[2-(2,3-dihydrobenzofuran-5-yl)ethyl]-3-pyrrolidinyl}-2,2-diphenylacetamide | Yield 85% | O1CCC2=C1C=CC(=C2)CCN2C[C@@H](CC2)C(C(=O)N)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H30N2O2
